US09107916B2
B. methyl 4-bromo-2-ethylbenzoate
Charged compound 4-bromo-2-ethylbenzoic acid (2.05 g, 9.58 mmol) and methanol (20 mL) to a flask, SOCl2 (3.42 g, 28.74 mmol) was added slowly at 0° C. The reaction mixture was heated to 70° C. for three hour. Solvent was removed and the residue was dissolved in CH2Cl2, filtered, the filtrate was concentrated to a residue which was purified by flash column chromatograph to give 1.9 g of the title compound (87%).

reactant | 4-bromo-2-ethylbenzoic acid | 9.58 mmol, 2.05 g | BrC1=CC(=C(C(=O)O)C=C1)CC | C9H9BrO2
reactant | SOCl2 | 28.74 mmol, 3.42 g | O=S(Cl)Cl | Cl2OS
reactant | methanol | 20 mL | CO | CH4O
product | methyl 4-bromo-2-ethylbenzoate | 1.9 g, 87% | BrC1=CC(=C(C(=O)OC)C=C1)CC | C10H11BrO2
